US09422281B2
Sodium formate (14 mg, 0.200 mmol) and formic acid (46 mg, 1.0 mmol) were added to (S)-1-(2-methyl-6-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone (0.2 M in 1,2-dichloroethane, 0.1 mL, 0.02 mmol) and shaken at room temperature for 5 h. The reaction was concentrated and the crude product was purified by mass-triggered preparatory HPLC. The product-containing fractions were combined and concentrated to afford (S)-4-acetyl-3-methyl-7-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1 (2H)-carbaldehyde (0.0034 g, 46%). MS (ESI, pos. ion) m/z 373

reactant | Sodium formate | 0.200 mmol, 14 mg | C(=O)[O-].[Na+]
reactant | formic acid | 1.0 mmol, 46 mg | C(=O)O | CH2O2
reactant | (S)-1-(2-methyl-6-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1(2H)-yl)ethanone | 0.02 mmol, 0.2 M, 0.1 mL | C[C@@H]1N(C2=CC=C(C=C2NC1)C1=CC=C(C=C1)S(=O)(=O)C)C(C)=O | C18H20N2O3S
product | (S)-4-acetyl-3-methyl-7-(4-(methylsulfonyl)phenyl)-3,4-dihydroquinoxaline-1 (2H)-carbaldehyde | 0.0034 g, 46% | C(C)(=O)N1[C@H](CN(C2=CC(=CC=C12)C1=CC=C(C=C1)S(=O)(=O)C)C=O)C | C19H20N2O4S
